US06277872B1
c) Preparation of 5-{2-[2-(N,N-dimethylamino)ethyl]oxy-phenyl}-3-(4-hydroxy-phenyl)-1,2,4-oxadiazole
2,45 g of 2-[2-(N,N-dimethylamino)ethyl]oxy-benzoic acid are dissolved with 1.91 g of N-ethyl-N-dimethylaminopropyl)carbodiimide hydrochloride and catalytic amounts of hydroxybenzotriazole in 50 ml of DMF. After 15 minutes 1.52 g of 4-hydroxybenzoic acid amidoxime are added and the mixture is heated for 15 minutes at 700 W in the microwave. It is concentrated by evaporation, the residue is taken up in ethyl acetate, washed with water, dried over sodium sulphate and concentrated by evaporation in vacuo. The residue is filtered over silica gel with ethanol and converted into the salt as described above. Yield: 1.1 g (29% of theory). m.p.: 170° C. (decomposition).

reactant | 2-[2-(N,N-dimethylamino)ethyl]oxy-benzoic acid | 2,45 g | CN(C)CCOC1=C(C(=O)O)C=CC=C1 | C11H15NO3
reactant | carbodiimide hydrochloride | Cl.N=C=N
reactant | hydroxybenzotriazole | OC1=CC=CC=2NN=NC21 | C6H5N3O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 5-{2-[2-(N,N-dimethylamino)ethyl]oxy-phenyl}-3-(4-hydroxy-phenyl)-1,2,4-oxadiazole | CN(C)CCOC1=C(C=CC=C1)C1=NC(=NO1)C1=CC=C(C=C1)O | C18H19N3O3
